US05409934
8-Amino-1,3-di(cyclopropylmethyl)xanthine (2.7 g, 10 mmol), 4-nitrobenzenesulphonyl chloride (5.5 g, 25 mmol) and triethylamine (3 ml, 20 mmol) were stirred together in tetrahydrofuran (THF) (40 ml) at ambient temperature for 24 hr. After adding to water (100 ml) the mixture was extracted into ethyl acetate (150 ml) and the organic solution dried (MgSO4) and evaporated. Chromatography of the residue on silica, (hexane/acetone gradient) gave 8-amino- 1,3-di(cyclopropylmethyl)-7-(4-nitrobenzenesulphonyl)xanthine followed by 1,3-di(cyclopropylmethyl)-8di(cyclopropylmethyl)-8-di(4-nitrobenzenesulphonyl)aminoxanthine.

reactant | 8-Amino-1,3-di(cyclopropylmethyl)xanthine | 10 mmol, 2.7 g | NC1=NC=2N(C(N(C(C2N1)=O)CC1CC1)=O)CC1CC1 | C13H17N5O2
reactant | 4-nitrobenzenesulphonyl chloride | 25 mmol, 5.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | 20 mmol, 3 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 8-amino- 1,3-di(cyclopropylmethyl)-7-(4-nitrobenzenesulphonyl)xanthine | NC1=NC=2N(C(N(C(C2N1S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)CC1CC1)=O)CC1CC1 | C19H20N6O6S
